US06525070B2
Potassium hydroxide (0.278 g) was added to a solution of 3-fluoro-4-nitrobenzoic acid (0.4 g) in ethanol (7 ml) and the reaction treated with microwaves (300W, 100° C.) for 5 minutes. The reaction mixture was acidified using 2N HCl and extracted with ethyl acetate. The extracts were combined, washed with water, dried (MgSO4) and evaporated to give 3-ethoxy-4-nitro-benzoic acid (0.325 g).

reactant | Potassium hydroxide | 0.278 g | [OH-].[K+]
reactant | 3-fluoro-4-nitrobenzoic acid | 0.4 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | HCl | 2N | Cl | ClH
reactant | ethanol | 7 ml | C(C)O | C2H6O
product | 3-ethoxy-4-nitro-benzoic acid | 0.325 g | C(C)OC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C9H9NO5
